US05932743
1-Benzyl-2-butyl-3-(5-methoxy-3,4-dihydro-naphthalen-1-yl)-1H-indole-6-carboxylic Acid
To a suspension of 2-butyl-3-(5-methoxy-3,4-dihydro-naphthalen-1-yl)-1H-indole-6-carboxylic acid on Wang resin (100 mg; prepared according to the procedure outlined in Example 9) in dimethylformamide (1.5 mL) was added sodium hydride (60% in mineral oil; 20 mg) and the mixture was stirred at room temperature for 30 min. Benzyl bromide (0.1 mL) was added and the mixture was stirred for 3 h. The mixture was filtered, washed with water (1×1.5 mL), tetrahydrofuran (2×1.5 mL), dichloromethane (2×1.5 mL), and dried. The product was cleaved from the resin by treatment with 1:1 trifluoroacetic acid/dichloromethane for 1 h; 1H NMR (DMSO-d6) δ 0.67 (t, J=7.0 Hz, 3 H), 1.16 (t, J=6.7 Hz, 2 H), 1.34 (t, J=6.7 Hz, 2 H), 2.42 (m, 2 H), 2.55 (m, 2 H), 2.80 (m, 2 H), 3.82 (s, 3 H), 5.59 (s, 2 H), 6.12 (t, 1 H), 6.32 (d, J=7.3 Hz, 1 H), 6.88 (d, J=8.3 Hz, 1 H), 7.00 (m, 3 H), 7.15 (d, J=8.3 Hz, 1 H), 7.30 (m, 3 H), 7.55 (d, J=8.2 Hz, 1 H), 7.94 (s, 1 H).

reactant | 2-butyl-3-(5-methoxy-3,4-dihydro-naphthalen-1-yl)-1H-indole-6-carboxylic acid | C(CCC)C=1NC2=CC(=CC=C2C1C1=CCCC2=C(C=CC=C12)OC)C(=O)O | C24H25NO3
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | Benzyl bromide | 0.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 1-Benzyl-2-butyl-3-(5-methoxy-3,4-dihydro-naphthalen-1-yl)-1H-indole-6-carboxylic Acid | C(C1=CC=CC=C1)N1C(=C(C2=CC=C(C=C12)C(=O)O)C1=CCCC2=C(C=CC=C12)OC)CCCC | C31H31NO3
